US07320974B2
(Z)-N-((2R,4R,6R)-2-Hydroxy-2-((R)-2-oxothiazolidin-4-yl)-6-(pent-4-enyl)-tetrahydro-2H-pyran-4-yl)-3-methylhepta-2,6-dienamide, Compound 1a
Application of the method shown in Example 46, with the modification that (Z)-N-((2R,4R,6R)-2-methoxy-2-((R)-3-(4-methoxybenzyl)-2-oxothiazolidin4-yl)-6-(pent-4-enyl)-tetrahydro-2H-pyran-4-yl)-3-methylhepta-2,6-dienamide was substituted for (R)-4-((1R,4Z,8Z,13R,15R)-15-methoxy-5-methyl-3-oxo-2,14-dioxa-bicyclo[11.3.1]heptadexa-4,8-dien-15-yl)-3-(4-methoxybenzyl)thiazolidin-2-one, afforded the title compound.

reactant | (Z)-N-((2R,4R,6R)-2-methoxy-2-((R)-3-(4-methoxybenzyl)-2-oxothiazolidin4-yl)-6-(pent-4-enyl)-tetrahydro-2H-pyran-4-yl)-3-methylhepta-2,6-dienamide | CO[C@]1(O[C@@H](C[C@H](C1)NC(\C=C(/CCC=C)\C)=O)CCCC=C)[C@H]1N(C(SC1)=O)CC1=CC=C(C=C1)OC | C30H42N2O5S
reactant | 3-(4-methoxybenzyl)thiazolidin-2-one | COC1=CC=C(CN2C(SCC2)=O)C=C1 | C11H13NO2S
product | (Z)-N-((2R,4R,6R)-2-Hydroxy-2-((R)-2-oxothiazolidin-4-yl)-6-(pent-4-enyl)-tetrahydro-2H-pyran-4-yl)-3-methylhepta-2,6-dienamide | O[C@]1(O[C@@H](C[C@H](C1)NC(\C=C(/CCC=C)\C)=O)CCCC=C)[C@H]1NC(SC1)=O | C21H32N2O4S
